US07300939B2
5.33 g (15.6 mmol) of tert-butyl 4-(5-ethoxycarbonylthiazol-2-yl)piperazine-1-carboxylate [Precursor BBB60] were dissolved in ethanol together with 0.96 g (17.1 mmol) of KOH (100 ml) and stirred at 40° C. 4 h. The resulting precipitate was filtered off and dissolved in water. After this, the solution was adjusted to a pH<2 with 10% strength hydrochloric acid and extracted with chloroform. The organic phase was washed with water and a satd aq. NaCl soln and dried over MgSO4. After filtration and concentration in vacuo, 2.77 g (8.8 mmol, 56%) of tert-butyl 4-(5-carboxythiazol-2-yl)piperazine-1-carboxylate were obtained from the residue by recrystallization from diethyl ether.

reactant | tert-butyl 4-(5-ethoxycarbonylthiazol-2-yl)piperazine-1-carboxylate | 15.6 mmol, 5.33 g | C(C)OC(=O)C1=CN=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O4S
reactant | KOH | 17.1 mmol, 100 ml, 0.96 g | [OH-].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | tert-butyl 4-(5-carboxythiazol-2-yl)piperazine-1-carboxylate | 8.8 mmol, 2.77 g, 56% | C(=O)(O)C1=CN=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19N3O4S
